US07179823B1
A mixture of 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylic acid (0.75 g), 1H-1,2,3-benzotriazol-1-ol ammonia complex (0.26 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.33 g), and N,N-dimethylformamide (10 ml) was stirred at room temperature overnight. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carbamide (0.70 g, yield 94%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from acetone-hexane. Melting point: 158–159° C.

reactant | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylic acid | 0.75 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1C(=O)O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H23N3O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.33 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carbamide | 0.70 g, yield 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1C(=O)N)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H24N4O4
